* C:\GitHub\CurveTracer\CT8042\LTspice\ACTIVECLAMP.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N001 N002 2050
R2 N002 N004 10000
R3 N004 N005 2050
V1 N001 0 5
V2 0 N005 5
V3 N003 0 SINE(0 6 10)
Q1 N005 N004 N003 0 NPN
Q2 N001 N002 N003 0 PNP
.model NPN NPN
.model PNP PNP
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
.backanno
.end
