* C:\GitHub\CurveTracer\CT8042\LTspice\SWEEPGEN-2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 0 N015 48
V2 N001 0 48
V3 N002 0 15
V4 0 N014 15
V5 0 N008 5
V6 N003 0 5
X§U1 N004 N005 N003 N008 N006 LT6016
Q1 N007 N006 N005 0 2N3906
C1 N007 0 100nF
R1 N003 N005 50K
R2 N004 0 10K
X§U2 N007 N009 N003 N008 N010 LT1017
V7 N004 0 2.5
R4 N004 N009 5k
R5 0 N009 20k
R6 N012 N009 10
R7 N010 N013 1
R8 N010 N011 1
M1 N007 N011 0 0 BS170
M2 N012 N013 0 0 BS170
.model NPN NPN
.model PNP PNP
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 0.1 0 0.0001 startup
.lib LT1017.sub
.lib LTC2.lib
.backanno
.end
