* C:\GitHub\CurveTracer\CT8042\LTspice\SWEEPGEN.asc
* Generated by LTspice 24.1.9 for Windows.
V1 0 N039 48
V2 N001 0 48
V3 N002 0 15
V4 0 N038 15
V5 0 N025 5
V6 N003 0 5
X§U2 N023 N015 N003 N025 N015 LT6016
X§U3 0 N014 N003 N025 N023 LT6016
X§U4 N022 N016 N003 N025 N016 LT6016
R4 N023 N014 10K
R5 N014 N016 10K
R6 N008 N022 2K
R7 N022 0 2K
X§U5 N013 N007 N003 N025 N008 LT6016
R8 N008 N007 10K
R9 N007 0 10K
C2 N013 N025 10nF
R10 N026 N025 10K
R11 N024 N028 10K
R12 N024 DISCHARGE 27K4
D1 N028 N025 1N4148
Q1 N013 N024 N026 0 2N3904
Q2 N003 N005 N010 0 2N3904
J1 N010 N020 N019 J112
X§U6 N021 N019 N003 N025 N020 LT6016
R13 N019 0 33K2
C3 N003 N010 100nF
R14 N005 DISCHARGE 5K11
R15 N021 0 4K02
R16 N003 N021 10K
R17 N003 N004 10K
R18 N011 N010 25K
D2 N004 N006 1N4148
R19 N006 N011 25K
R20 N010 0 100K
R21 N003 N009 205K
Q3 N013 N011 N009 0 2N3906
X§U7 N025 N029 DISCHARGE N003 N034 N033 NC_01 N003 NE555
C4 N034 N025 100nF
X§U8 N031 N013 N003 N025 N029 LT6016
X§U9 N035 N013 N003 N025 N033 LT6016
R22 0 N031 39K2
R23 N031 N029 4750000
R24 N031 N030 100K
C5 N030 N029 100pF
R25 N032 N031 10K
R26 0 N035 10K
R27 N035 N033 4750000
R28 N035 N036 100K
C6 N036 N033 100pF
R29 N037 N035 332K
R30 N037 0 5K
R31 N003 N037 5K
V7 N032 0 2.5
D3 DISCHARGE N017 1N4148
R1 N017 N027 1K
R2 SYNC N003 10K
Q4 SYNC N027 0 0 2N3904
D4 N018 N017 1N4148
R3 0 N018 24K9
C1 N012 N018 120pF
X§U1 N025 N003 N012 N003 NC_02 N033 NC_03 N003 NE555
.model D D
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 0.1
.lib LTC2.lib
.lib NE555.sub
.backanno
.end
