* C:\GitHub\CurveTracer\CT8042\LTspice\output stage.asc
* Generated by LTspice 24.1.9 for Windows.
V1 0 N036 48
V2 N001 0 48
V3 N002 0 15
V4 0 N035 15
V5 0 N023 5
V6 N003 0 5
X§U2 N021 N015 N003 N023 N015 LT6016
X§U3 0 N014 N003 N023 N021 LT6016
X§U4 N020 N016 N003 N023 N016 LT6016
R4 N021 N014 10K
R5 N014 N016 10K
R6 N009 N020 2K
R7 N020 0 2K
X§U5 N013 N008 N003 N023 N009 LT6016
R8 N009 N008 10K
R9 N008 0 10K
C2 N013 N023 10nF
R10 N024 N023 10K
R11 N022 N025 10K
R12 N022 N005 27K4
D1 N025 N023 1N4148
Q1 N013 N022 N024 0 2N3904
Q2 N003 N006 N011 0 2N3904
J1 N011 N018 N017 J112
X§U6 N019 N017 N003 N023 N018 LT6016
R13 N017 0 33K2
C3 N003 N011 100nF
R14 N006 N005 5K11
R15 N019 0 4K02
R16 N003 N019 10K
R17 N003 N004 10K
R18 N012 N011 25K
D2 N004 N007 1N4148
R19 N007 N012 25K
R20 N011 0 100K
R21 N003 N010 205K
Q3 N013 N012 N010 0 2N3906
X§U7 N023 N026 N005 N003 N031 N030 NC_01 N003 NE555
C4 N031 N023 100nF
X§U8 N028 N013 N003 N023 N026 LT6016
X§U9 N032 N013 N003 N023 N030 LT6016
R22 0 N028 39K2
R23 N028 N026 4750000
R24 N028 N027 100K
C5 N027 N026 100pF
R25 N029 N028 10K
R26 0 N032 10K
R27 N032 N030 4750000
R28 N032 N033 100K
C6 N033 N030 100pF
R29 N034 N032 332K
R30 N034 0 5K
R31 N003 N034 5K
V7 N029 0 2.5
.model D D
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\VincentHimpe\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 1
.lib LTC2.lib
.lib NE555.sub
.backanno
.end
