* C:\GitHub\CurveTracer\CT8042\LTspice\powercomparators.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N004 N002 10k
R2 N002 0 40k2
R3 N005 N002 866
R4 OUT N003 100k
R5 OUT N002 4750000
C1 N003 N002 100pf
X§U1 N002 INPUT N001 N007 OUT LT1017
V1 N004 0 2.5V
V2 N006 0 PULSE(0 5 0 0.000001 0.000001 0.1 0.2 10)
V3 0 N007 5V
V4 N001 0 5V
V5 INPUT 0 SINE(2 2 100)
R6 N001 OUT 10K
X§U2 N006 0 N005 N007 0 N001 ADG411
.tran 1
.lib ADG411.sub
.lib LT1017.sub
.backanno
.end
